* Schematics Netlist *



X_U6B         $N_0001 $N_0001 AL $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6C         Z $N_0002 RG $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R6         CS $N_0003  1k  
X_U6D         STROBE STROBE $N_0002 $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM13         STIM(1,0) $G_DPWR $G_DGND STROBE IO_STM STIMULUS=STROBE
U_DSTM10         STIM(1,0) $G_DPWR $G_DGND AUTO_FD IO_STM STIMULUS=AUTO_FD
U_DSTM11         STIM(1,0) $G_DPWR $G_DGND INIT IO_STM STIMULUS=INIT
U_DSTM12         STIM(1,0) $G_DPWR $G_DGND SLCT_IN IO_STM STIMULUS=SLCT_IN
R_R1         +5v $N_0004  1k  
X_U1         $N_0004 0 0 AUTO_FD INIT SLCT_IN $N_0005 $N_0001 CS Z $N_0006
+  $N_0007 $N_0008 $N_0009 $G_DPWR $G_DGND 74ALS138 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0005 $N_0005 AH $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM9         STIM(1,0) $G_DPWR $G_DGND $N_0004 IO_STM STIMULUS=Reset
R_R8         $N_0010 +5v  1k  
Q_Q1         0 $N_0003 $N_0011 TIP30
R_R9         $N_0011 +5v  1k  
X_U2         RG AH D0 D1 D2 D3 D4 D5 D6 D7 A5 A6 A7 A8 A9 A10 A11 A12 $G_DPWR
+  $G_DGND 74AS573 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R5         +5v WR  1k  
R_R7         WR $N_0012  1k  
U_DSTM14         STIM(8,0) $G_DPWR $G_DGND Q7 Q6 Q5 Q4 Q3 Q2 Q1 Q0 IO_STM
+  STIMULUS=QBus
X_U5         0 Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 L/H ERROR SLCT PE ASK $G_DPWR $G_DGND
+  74ALS257 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM15         STIM(1,0) $G_DPWR $G_DGND BUSY IO_STM STIMULUS=Ctrl
Q_Q2         0 $N_0012 $N_0010 TIP30
R_R10         L/H +5v  10k  
X_U4         D0 D1 D2 D3 D4 D5 D6 D7 WR WR Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 $G_DPWR
+  $G_DGND 74LS244 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3         RG AL D0 D1 D2 D3 D4 D5 D6 D7 A0 A1 A2 A3 A4 WR L/H $N_0029
+  $G_DPWR $G_DGND 74AS573 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(8,0) $G_DPWR $G_DGND D7 D6 D5 D4 D3 D2 D1 D0 IO_STM
+  STIMULUS=DBus
D_D1         PowerOn +5v D1N4148 
Q_Q3         PowerOn $N_0030 0 TIP29
R_R3         PowerOn +5v  1k  
R_R2         $N_0002 $N_0030  1k  
